US07704933B2
A) 2,3,8a-trimethyl-3,4,4a,5,8,8a-hexahydro-1(2H)-naphthalenone
In a 1 liter round-bottomed flask, at room temperature, were successively added CH2Cl2 (400 ml), BHT (100 mg) and a 1 M solution of EtAlCl2 in hexanes (80 ml; 0.08 mol). 2,5,6-trimethylcyclohex-2-en-1-one (55.2 g, 0.4 mol, 3:2 mixture of two isomers) was added dropwise, while maintaining the internal temperature below 30° C. Then butadiene (43.2 g, 0.8 mol) was added in one portion. The reaction was stirred at room temperature for 15 days. The reaction was then poured onto cold 5% aqueous HCl and extracted twice with ether. The organic layers were washed with saturated aqueous NaHCO3, water and brine and dried over solid sodium sulfate. The crude product was distilled to give 50 g of a liquid which was then chromatographed on silicagel (heptane:ethyl acetate 49:1) then purified by bulb-to-bulb distillation (B.P.=90° C./0.021 mbar) to give the totle compound (39.43 g, 0.205 mol, 51%) as a 3:2 mixture of diastereoisomers.

reactant | EtAlCl2 | C(C)[Al](Cl)Cl
reactant | 2,5,6-trimethylcyclohex-2-en-1-one | 0.4 mol, 55.2 g | CC=1C(C(C(CC1)C)C)=O | C9H14O
reactant | butadiene | 0.8 mol, 43.2 g | C=CC=C | C4H6
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | 2,3,8a-trimethyl-3,4,4a,5,8,8a-hexahydro-1(2H)-naphthalenone | 50 g | CC1C(C2(CC=CCC2CC1C)C)=O | C13H20O
